US05180737
Chloroacetyl chloride (ex. Aldrich) (50 g) was added dropwise, with stirring, to isobutylamine (ex. Aldrich) (70 ml) in dry ether (250 ml) at 0° C. When the mixture had reached room temperature it was worked up in conventional fashion to give N-isobutyl 2-chloroacetamide. The latter (20 g) was heated for 3 hours at 120° C. with triethylphosphite (23 g). The mixture was subjected to distillation in vacuo to give N-isobutyl diethylphosphono acetamide (22.5 g, bp. 140°-142.5° C. at 0.1 mm).

reactant | Chloroacetyl chloride | 50 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isobutylamine | 70 ml | C(C(C)C)N | C4H11N
solvent | ether | 250 ml | CCOCC | C4H10O
product | N-isobutyl 2-chloroacetamide | C(C(C)C)NC(CCl)=O | C6H12ClNO
